simulator lang=spectre
global 0

ahdl_include "../submission/xor_phase_detector.va"

Vref (ref 0) vsource type=pwl wave=[0 1.2 0.7n 1.2 0.75n 0 1.4n 0 1.45n 0 2.1n 0 2.15n 1.2 3.2n 1.2]
Vfb (fb 0) vsource type=pwl wave=[0 0 0.7n 0 0.75n 0 1.4n 0 1.45n 1.2 2.1n 1.2 2.15n 1.2 3.2n 1.2]
XDUT (ref fb up down) xor_phase_detector

tran tran stop=3.0n maxstep=5p
save ref fb up down
